US06528525B1
2-Butyl-3-[4-[2-(2-phenoxypyridine-5-carbonylamino)ethoxy]phenyl]propionic acid (exemplification No. 4-106 compound)
In a similar manner to that described in Example 2, ethyl 2-butyl-3-[4-[2-(2-phenoxypyridine-5-carbonylamino)ethoxy]phenyl]propionate (215 mg), which is the product of Example 55, was reacted with aqueous sodium hydroxide solution (1N, 1.32 ml) and the reaction mixture was treated to afford the crude free acid which was subjected to chromatography on a silica gel thin layer plate using dichloromethane/methanol=10/1 as the eluant to give the title compound (137 mg) as colorless crystals.

reactant | ethyl 2-butyl-3-[4-[2-(2-phenoxypyridine-5-carbonylamino)ethoxy]phenyl]propionate | 215 mg | C(CCC)C(C(=O)OCC)CC1=CC=C(C=C1)OCCNC(=O)C=1C=CC(=NC1)OC1=CC=CC=C1 | C29H34N2O5
reactant | sodium hydroxide | 1N, 1.32 ml | [OH-].[Na+]
solvent | dichloromethane methanol | ClCCl.CO
product | 2-Butyl-3-[4-[2-(2-phenoxypyridine-5-carbonylamino)ethoxy]phenyl]propionic acid | 137 mg | C(CCC)C(C(=O)O)CC1=CC=C(C=C1)OCCNC(=O)C=1C=CC(=NC1)OC1=CC=CC=C1 | C27H30N2O5
